### ISSUE TITLE
平方根を簡約するsimprocsの実装例

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#376]
Zulip: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Should.20these.20surds.20be.20simplified.20with.20norm_num.3F

**Comment by Seasawher** [comment]
```lean
import Mathlib

open Lean Meta

theorem sqrt_reduce (nsqrt n' : Nat) : √(Nat.cast (nsqrt ^ 2 * n')) = nsqrt * √n' := by
  simp

simproc reduceSqrt (Real.sqrt _) := fun e => do
  let some (n, Rty) ← getOfNatValue? e.appArg! ``Real | return .continue
  if n == 0 || n == 1 || Squarefree n then return .continue
  let mut nsqrt := 1
  let mut n' := 1
  let mut n'' := n
  for p in Nat.factors n do
    let mut multiplicity := 0
    while n'' % p == 0 do
      n'' := n'' / p
      multiplicity := multiplicity + 1
    nsqrt := nsqrt * p ^ (multiplicity / 2)
    n' := n' * p ^ (multiplicity % 2)
  -- now `n'` is squarefree and `n = nsqrt^2 * n'`.
  -- pf1 is `OfNat.ofNat n = Nat.cast n`
  let pf1 ← mkEqSymm (← mkAppOptM ``Nat.cast_eq_ofNat #[Rty, toExpr n, none, none])
  -- pf2 is `√(OfNat.ofNat n) = √(Nat.cast n)`
  let pf2 ← mkCongrArg (.const ``Real.sqrt []) pf1
  -- pf3 is `√(Nat.cast (nsqrt ^ 2 * n')) = nsqrt * √n'`
  let pf3 ← mkAppM ``sqrt_reduce #[toExpr nsqrt, toExpr n']
  -- pf4 is `√(OfNat.ofNat n) = nsqrt * √n'`
  let pf4 ← mkEqTrans pf2 pf3
  let some (_, _, rhs) := (← inferType pf4).eq? | return .continue -- should not fail
  return .visit { expr := rhs, proof? := pf4 }

example : √12 = 2 * √3 := by simp
```
